US08563583B2
C. 1-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-((pyridin-2-yloxy)methyl)pyridin-2(1H)-one
A solution of 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(hydroxymethyl)pyridin-2(1H)-one Part B (50 mg, 0.16 mmol) and 2-chloropyridine (0.059 mL, 0.63 mmol) in DMF (0.6 mL) was added to a mixture of Pd(OAc)2 (7.0 mg, 0.03 mmol), racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (19 mg, 0.05 mmol), and Cs2CO3 (128 mg, 0.39 mmol) in 0.4 ml DMF. The mixture was stirred 15 min prior to heating at 80° C. for 6 h. After cooling to RT, the mixture was diluted with EtOAc and was filtered. The filtrate was concentrated and the residue was purified by Prep-HPLC (MeOH/H2O/TFA) to afford the title compound A-4 as a white solid (24 mg, 37% yield). LC-MS, [M+H]+=397. 1H NMR (CDCl3, 400 MHz) δ 8.16 (m, 1H), 7.62 (m, 1H), 7.31 (d, J=7.1 Hz, 1H), 6.91 (m, 5H), 6.72 (s, 1H), 6.28 (dd, J=7.1 and 2.2 Hz, 1H), 5.29 (s, 2H), 3.85 (s, 5H), 1.33 (s, 6H), HPLC-Method 6; 3.07 min.

reactant | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(hydroxymethyl)pyridin-2(1H)-one | OC(COC1=C(C=C(C=C1)N1C(C=C(C=C1)CO)=O)OC)(C)C | C17H21NO5
reactant | 2-chloropyridine | 0.63 mmol, 0.059 mL | ClC1=NC=CC=C1 | C5H4ClN
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.05 mmol, 19 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | Cs2CO3 | 0.39 mmol, 128 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.03 mmol, 7.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-((pyridin-2-yloxy)methyl)pyridin-2(1H)-one | OC(COC1=C(C=C(C=C1)N1C(C=C(C=C1)COC1=NC=CC=C1)=O)OC)(C)C | C22H24N2O5
